US09169254B2
2-(Methylthio)-2-thiazoline (19 μL, 0.17 mmol) and acetic acid (1.2 ml) were added to a solution of 8-[(E)-2-(4-amino-2,6-dimethyl-phenyl)vinyl]sulfonyl-3-cyclohexyl-2,4,8-triazaspiro[4.5]dec-3-en-1-one (74 mg, 0.16 mmol) in EtOH (2.5 ml) at room temperature, and the mixture was heated with stirring at 80° C. for 16 hours. The reaction solution was diluted with ethyl acetate, and the organic layer was then sequentially washed with water and saturated brine and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give 2-cyclohexyl-8-{(E)-2-[4-(4,5-dihydro-thiazol-2-ylamino)-2,6-dimethyl-phenyl]-ethenesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (46.1 mg, 52%).

reactant | 2-(Methylthio)-2-thiazoline | 0.17 mmol, 19 μL | CSC=1SCCN1 | C4H7NS2
reactant | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
reactant | 8-[(E)-2-(4-amino-2,6-dimethyl-phenyl)vinyl]sulfonyl-3-cyclohexyl-2,4,8-triazaspiro[4.5]dec-3-en-1-one | 0.16 mmol, 74 mg | NC1=CC(=C(C(=C1)C)/C=C/S(=O)(=O)N1CCC2(N=C(NC2=O)C2CCCCC2)CC1)C | C23H32N4O3S
solvent | EtOH | 2.5 ml | CCO | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-cyclohexyl-8-{(E)-2-[4-(4,5-dihydro-thiazol-2-ylamino)-2,6-dimethyl-phenyl]-ethenesulfonyl}-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 46.1 mg, 52% | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)\C=C\C2=C(C=C(C=C2C)NC=2SCCN2)C | C26H35N5O3S2
